US06297196B1
Step 8: Methyl 5,8-dimethyl-4-hydroxy-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate
10 g (0.04 mol) of methyl 5,8-dimethyl-4-hydroxy-6-thiochromanecarboxylate and 4.9 g (0.06 mol) of sodium acetate were together added to 200 ml of methanol. The mixture was cooled to 0° C. and slowly admixed with a solution of 41.4 g (0.07 mol) of OXONE® (potassium peroxymonosulfate) in 200 ml of water. During the addition, the reaction temperature was kept below 6° C. The mixture was subsequently stirred at room temperature for 4 h and then diluted with 120 ml of water. The mixture was extracted with methylene chloride (3×200 ml), and the extract was dried over MgSO4 and concentrated using a rotary evaporator.

reactant | methyl 5,8-dimethyl-4-hydroxy-6-thiochromanecarboxylate | 0.04 mol, 10 g | CC1=C2C(CCSC2=C(C=C1C(=O)OC)C)O | C13H16O3S
reactant | sodium acetate | 0.06 mol, 4.9 g | C(C)(=O)[O-].[Na+]
reactant | OXONE | 0.07 mol, 41.4 g | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | water | 200 ml | O | H2O
solvent | water | 120 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | Methyl 5,8-dimethyl-4-hydroxy-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate | CC1=C2C(CCS(C2=C(C=C1C(=O)OC)C)(=O)=O)O | C13H16O5S
